US09447084B2
4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]naphthalene-1-carboxylic acid
Into a 50-mL round-bottom flask, was placed methanol (20 mL), methyl 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]naphthalene-1-carboxylate (200 mg, 0.40 mmol, 1.00 equiv), 15% NaOH (5 mL). The resulting solution was stirred for 2 h at 70° C. in an oil bath. The reaction mixture was cooled. The resulting mixture was concentrated under vacuum. The solids were collected by filtration and washed with 10 mL H2O. Then the solid was dried under infrared light. This resulted in 150 mg (77%) of 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]naphthalene-1-carboxylic acid as a white solid.

reactant | methyl 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]naphthalene-1-carboxylate | 0.40 mmol, 200 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)OC)C(F)(F)F | C23H14ClF6NO3
reactant | NaOH | 5 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]naphthalene-1-carboxylic acid | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)O)C(F)(F)F | C22H12ClF6NO3
